US09359329B2
To a solution of 5 g (219 mmol) of sodium in 13 mL of anhydrous EtOH and 88 mL of ether are added dropwise, at 0° C. and under argon, 20.5 g (87.5 mmol) of ethyl 4-[(2-ethoxy-2-oxoethyl)sulfanyl]butanoate. After stirring for 18 hours at room temperature, the reaction mixture is poured into a mixture of AcOH (12 mL)/ice (70 g). The medium is then concentrated under reduced pressure, and the residue obtained is taken up in 100 mL of ether, washed with brine (2×50 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue obtained is purified by chromatography on silica gel, eluting with a cyclohexane/EtOAc gradient of from 0 to 10% EtOAc. 5.64 g of ethyl 3-oxotetrahydro-2H-thiopyrane-2-carboxylate are obtained in the form of a yellow oil.

reactant | sodium | 219 mmol, 5 g | [Na] | Na
reactant | ethyl 4-[(2-ethoxy-2-oxoethyl)sulfanyl]butanoate | 87.5 mmol, 20.5 g | C(C)OC(CSCCCC(=O)OCC)=O | C10H18O4S
reactant | AcOH | 12 mL | CC(=O)O | C2H4O2
solvent | EtOH | 13 mL | CCO | C2H6O
solvent | ether | 88 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
product | ethyl 3-oxotetrahydro-2H-thiopyrane-2-carboxylate | 5.64 g, Yield=34% | O=C1C(SCCC1)C(=O)OCC | C8H12O3S
